US06716837B1
6-bromo-1-isopropylindole (compound 34)
A mixture of 6-bromoindole (2.0 g, 10 mmol), K2CO3 (2.76 g, 20 mmol), NaH (0.48 g, 20 mmol), DMF (1 ml) and 2-iodopropane (8.5 g, 50 mmol) in 40 ml of toluene was heated at 90˜100° C. for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulphate (Na2SO4), concentrated in vacuo and the residue purified by column chromatography on silica gel, eluting with hexanes, to give (2.32 g, 97%) of the title product.

reactant | 6-bromoindole | 10 mmol, 2.0 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | K2CO3 | 20 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaH | 20 mmol, 0.48 g | [H-].[Na+]
reactant | 2-iodopropane | 50 mmol, 8.5 g | IC(C)C | C3H7I
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-bromo-1-isopropylindole | 2.32 g, 97% | BrC1=CC=C2C=CN(C2=C1)C(C)C | C11H12BrN
